US04826858
5-[(2-Cyano-1-aziridinyl)-methyl]-6-methoxypyridine-2-carboxylic acid (sodium salt)
2.33 g. (44 mmol) acrylonitrile are diluted with 1 ml. diethyl ether and, while stirring and illuminating, 7.05 g. (44 mmol) bromine are added dropwise thereto. The mixture is occasionally cooled in order to ensure that the internal temperature does not exceed 40° C. Stirring is continued for a further 5 minutes, the reaction mixture is diluted with 60 ml. methanol and a solution of 6.55 g. (44 mmol) triethanolamine in 60 ml. methanol is added dropwise thereto. After a further hour, there are simultaneously added dropwise thereto a solution of 6.55 g. (44 mmol) triethanolamine in 60 ml. methanol and a solution of 8 g. (44 mmol) 5-aminomethyl-6-methoxypyridine-2-carboxylic acid (m.p. 269°-270° C. (decomp.)) in 1 liter methanol/200 ml. water. The solution is left to stand for 24 hours, then evaporated substantially on a rotary evaporator and the aqueous solution adjusted with 2N hydrochloric acid to a pH of 4.5, followed by extracting continuously for 2 days with methylene chloride. The methylene chloride phase is then dried and evaporated to give 4.8 g. of an oil which is dissolved in 50 ml. ethanol. While cooling, the solution is mixed with a solution of 440 mg. sodium in 15 ml. ethanol. The sodium salt of 5-[(2-cyano-1-aziridinyl)-methyl]-6-methoxypyridine-2-carboxylic acid precipitates out and, after the addition of 100 ml. isopropanol, it is filtered off with suction, dried and washed with diethyl ether to give 3.7 g. (33% of theory) of the desired compound; m.p. 230°-232° C.

reactant | acrylonitrile | 44 mmol | C(C=C)#N | C3H3N
reactant | bromine | 44 mmol | BrBr | Br2
reactant | triethanolamine | 44 mmol | N(CCO)(CCO)CCO | C6H15NO3
reactant | triethanolamine | 44 mmol | N(CCO)(CCO)CCO | C6H15NO3
reactant | 5-aminomethyl-6-methoxypyridine-2-carboxylic acid | 44 mmol | NCC=1C=CC(=NC1OC)C(=O)O | C8H10N2O3
reactant | sodium | [Na] | Na
solvent | methanol | 1 liter | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-[(2-Cyano-1-aziridinyl)-methyl]-6-methoxypyridine-2-carboxylic acid | C(#N)C1N(C1)CC=1C=CC(=NC1OC)C(=O)O | C11H11N3O3
